US07115607B2
N-{(1R)-1-[(4-Chlorophenyl)methyl]-2-oxo-2-[4-(2-pyridylmethyl)piperazinyl]ethyl}(tert-butoxy) carboxamide was prepared according to the procedure for Preparation XIX using (2-pyridylmethyl)piperazine (650 mg. 3.7 mmol) (Array), Boc-p-Cl-D-Phe-OH (1.1 g, 3.7 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide methiodide (2.2 g, 7.2 mmol), HOAT (560 mg, 4.10 mmol) and DMF (15 mL) (730 mg). MS (ESI, pos. ion) m/z: 459 (M+H), (ESI, neg. ion) m/z: 457 (M−H). Calc'd for C24H31ClN4O3: 458.98.

reactant | (2-pyridylmethyl)piperazine | 3.7 mmol, 650 mg | N1=C(C=CC=C1)CN1CCNCC1 | C10H15N3
reactant | Boc-p-Cl-D-Phe-OH | 3.7 mmol, 1.1 g | N([C@H](CC1=CC=C(C=C1)Cl)C(=O)O)C(=O)OC(C)(C)C | C14H18ClNO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide methiodide | 7.2 mmol, 2.2 g | CCN=C=NCCCN(C)C.CI
reactant | HOAT | 4.10 mmol, 560 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | DMF | 15 mL, 730 mg | CN(C)C=O | C3H7NO
product | N-{(1R)-1-[(4-Chlorophenyl)methyl]-2-oxo-2-[4-(2-pyridylmethyl)piperazinyl]ethyl}(tert-butoxy) carboxamide | ClC1=CC=C(C=C1)C[C@H](C(N1CCN(CC1)CC1=NC=CC=C1)=O)NC(=O)OC(C)(C)C | C24H31ClN4O3
